US07262212B2
2,4-Dinitro-1H-imidazole (10 g, 63.3 mmol), 2-tert-butoxymethyloxirane (27 ml, 189 mmol) and sodium acetate (5.19 g, 189 mmol) were suspended in ethanol (100 ml) followed by stirring under reflux for 17 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. Water was added to the residue, and the resulting mixture was extracted with methylene chloride. The organic phase was dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1) to afford 2-tert-butoxymethyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole (3.2 g, yield 21%) as a white powder.

reactant | 2,4-Dinitro-1H-imidazole | 63.3 mmol, 10 g | [N+](=O)([O-])C=1NC=C(N1)[N+](=O)[O-] | C3H2N4O4
reactant | 2-tert-butoxymethyloxirane | 189 mmol, 27 ml | C(C)(C)(C)OCC1OC1 | C7H14O2
reactant | sodium acetate | 189 mmol, 5.19 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-tert-butoxymethyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole | 3.2 g, yield 21% | C(C)(C)(C)OCC1CN2C(O1)=NC(=C2)[N+](=O)[O-] | C10H15N3O4
